US06495686B2
D. 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2′,3′:4,5]-pyrrolo[1,2-a]pyrazine
A solution of 4-Hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2′,3′:4,5]pyrrolo[1,2-a]pyrazine (220 mg) in phosphorus oxychloride (2 mL) is heated to 100° C. for 1 hour. The resulting dark tan solution is concentrated in vacuo, diluted with water, and neutralized by adding saturated sodium bicarbonate solution. The neutralized solution is extracted 3 times with dichloromethane and the combined extracts are dried (Na2SO4), filtered, concentrated, and chromatographed on silica gel (10 to 20% ethyl acetate in hexane) to give 120 mg of the title compound as a yellow foam: 1H nmr (400 MHz, CDCl3) d 2.03 (s, 5 H), 2.38 (s, 3 H), 2.69 (s, 3 H), 7.03 (s, 2 H) 7.25 (s, 1 H), 7.66 (d, 1 H), 8.70 (s, 1 H), 9.00 (d, 1 H).

reactant | 4-Hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2′,3′:4,5]pyrrolo[1,2-a]pyrazine | 220 mg | OC1=CC(=NC=2C(=C3N(C=CN=C3)C21)C2=C(C=C(C=C2C)C)C)C | C20H19N3O
reactant | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2′,3′:4,5]-pyrrolo[1,2-a]pyrazine | 120 mg | ClC1=CC(=NC=2C(=C3N(C=CN=C3)C21)C2=C(C=C(C=C2C)C)C)C | C20H18ClN3
